US05175157
3[(N-Benzyl-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy1,3-dihydro-2H-3-benzazepin-2-one
2.3 g (0.02 mol) of potassium tert.butoxide are added to a solution of 4.4 g (0.02 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one in 100ml of absolute dimethylsulphoxide. After stirring for 30 minutes at ambient temperature, 5.6 g (0.020 mol) of 1-benzyl-3-bromomethyl-hexahydro-azepine are added and the resulting mixture is stirred for 2 hours at ambient temperature. The reaction mixture is dissolved in ethyl acetate and extracted several times with water. The organic phase is dried over magnesium sulphate and evaporated down in vacuo. The residue is purified by column chromatography over aluminium oxide N (activity II, eluant: methylene chloride, methylene chloride+0.3% ethanol). Yield: 4.2 g (50% of theory), IR spectrum (methylene chloride): 1655 cm-1 (CO).

reactant | potassium tert.butoxide | 0.02 mol, 2.3 g | CC(C)([O-])C.[K+]
reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.02 mol, 4.4 g | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 1-benzyl-3-bromomethyl-hexahydro-azepine | 0.020 mol, 5.6 g | C(C1=CC=CC=C1)N1CC(CCCC1)CBr | C14H20BrN
solvent | dimethylsulphoxide | 100ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3[(N-Benzyl-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy1,3-dihydro-2H-3-benzazepin-2-one | C(C1=CC=CC=C1)N1CC(CCCC1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C26H32N2O3
